US04904671
(b) 3-Amino-4-(4-hydroxybutylamino)pyridine
4-(4-Hyrdoxybutylamino)-3-nitropyridine (6 g) was dissolved in ethanol (60 cm3) containing Raney Ni catalyst (0.5 g) and then hydrogenated at room temperature for 3 hours under pressure (30 p.s.i.=206.8 kPa). The mixture was filtered under nitrogen and the filtrate was evaporated under vacuum to yield the crude product (5.5 g) which was used directly in the next step.

reactant | 4-(4-Hyrdoxybutylamino)-3-nitropyridine | 6 g | OCCCCNC1=C(C=NC=C1)[N+](=O)[O-] | C9H13N3O3
solvent | ethanol | 60 cm3 | C(C)O | C2H6O
catalyst | Ni | 0.5 g | [Ni] | Ni
product | 3-Amino-4-(4-hydroxybutylamino)pyridine | 5.5 g | NC=1C=NC=CC1NCCCCO | C9H15N3O
